US07504508B2
To a solution of diethyl azodicarboxylate (120 mg) in 5 ml THF at 0° C., was added PPh3 (181 mg). The mixture was stirred for 10 min at 0° C. Then (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (200 mg) was added. The mixture was stirred for 20 min at 0° C. 4-Hydroxy-cyclohexanecarboxylic acid ethyl ester (80 mg) was added. The final reaction mixture was stirred for overnight at RT. The mixture was concentrated under reduced pressure, dissolved in ethyl acetate, washed with sat. aqueous sodium bicarbonate, brine and dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (30/70 hexanes/ethyl acetate gradient) to afford pure (2S,4R)-4-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-cyclohexanecarboxylic acid ethyl ester (100 mg, 37%).

reactant | diethyl azodicarboxylate | 120 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | PPh3 | 181 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 200 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | 4-Hydroxy-cyclohexanecarboxylic acid ethyl ester | 80 mg | C(C)OC(=O)C1CCC(CC1)O | C9H16O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (2S,4R)-4-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-cyclohexanecarboxylic acid ethyl ester | 100 mg, 37% | C(C)OC(=O)C1CCC(CC1)OC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C | C34H37ClN2O5
